* D:\Christian\Projekt\Multiphase\B_Hardware\Temperaturmessung\Simulation\LTSpice\PT1000_Circuit_v05.asc
V1 Vcc 0 3.3
RTC1 N001 0 {R}
I1 0 N001 1m
XU1 N005 N002 Vcc 0 N003 OPA340 OPA340
R1 N005 Ue 10k
R2 N002 Vref 10k
R3 N005 0 402k
R4 N002 N003 402k
XU2 N004 Vref Vcc 0 Vref OPA340 OPA340
R5 Vcc N004 33k
R6 N004 0 1k
C1 N004 0 100n
XU3 N001 Ue Vcc 0 Ue OPA340 OPA340
.step param Temp1 0 200 5
.inc OPA340.LIB
.param TK=273.15
.param T0=TK+25
.param R=100*(1+Temp1*0.00385)
.op
;tran 0.1 startup
.backanno
.end
